US05789406
The preparation is carried out as in Example 7, from 3 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one and 2 times 2.8 ml of ethyl 2-isocyanatoacetate in 170 ml of dimethylformamide. The insoluble material thus obtained is filtered and recrystallized from dimethylformamide. After filtration, washing with water and drying under reduced pressure (1 mm Hg, 0.13 kPa) at 60° C., there are obtained 2.6 g of 8-(3-ethoxycarbonylmethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one in the form of a pink solid, the melting point of which is greater than 260° C. (Analysis C18H17N5 O4.0.75H2O.0.20DMF, % calculated C: 58.85, H: 4.66, N: 19.06, % found C: 58.9, H: 5.0, N: 18.9).

reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 3 g | NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1 | C13H10N4O
reactant | ethyl 2-isocyanatoacetate | 2.8 ml | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
product | 8-(3-ethoxycarbonylmethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 2.6 g | C(C)OC(=O)CNC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | C18H17N5O4
